Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
azithromycin
 
Attending: ___.
 
Chief Complaint:
"I had been feeling down for quite some time."
 
Major Surgical or Invasive Procedure:
Bilateral wrist lacerations s/p repair in ___ on ___ 
Prolene sutures placed on right; ___ Prolene sutures placed on 
left. ___ instructed suture removal in ___ days.
 
History of Present Illness:
Mr. ___ is a ___ ___ man with no past 
psychiatric history, brought in by police/ambulance after found 
to have cut his wrists in a reported suicide attempt, requiring  
10 stitches. He was initially admitted to medical service for 
monitoring due to asymptomatic bradycardia, now transferred to 
inpatient psychiatry for further treatment. 
  
Per Dr. ___ Dr. ___ consult note from ___: 
"Patient endorses worsening depression, hopelessness, and 
worthlessness regarding his social situation. He has been 
homeless for the past ___ years, now estranged from family, and 
is unable to receive welfare because he lost his social security 
card and cannot get an ID card. For the past ___ nights, he has 
been staying at the ___, but finds the shelter 
"stressful" at times, and sometimes prefers to sleep outside in 
the ___. 
  
Patient has had intermittent thoughts of suicidal ideation and 
passive death wish for the past few months, beginning around 
___ when he attempted to visit his brother in ___ and 
his brother acted like he did not know or recognize him. Patient 
states that they are estranged over "stories from home" that his 
brother was told about him, involving him owing money due to 
drug use and being in jail. His brother has stopped returning 
his calls, does not answer the door when he visits his home in 
___, and turned him away on ___ for the past ___ years. 
He has attempted to "remain optimistic" and "hoped that tomorrow 
would be better," but became discouraged when his situation 
failed to improve.  
  
Several weeks ago, patient's plans intensified, and he thought 
about running into traffic or slitting his wrists with a knife. 
Around this time, he was able to get a thin razorblade out from 
a shaving razor. Today, patient is unable to identify a trigger, 
but feels that he has "had it," "was mentally ready", was 
"desperate" and "resigned" about his situation, and attempted 
suicide as a "last resort." He used the razor blade to slit both 
wrists, while in the bathrooms at the ___. He was 
interrupted by a ranger, who preceded to call EMS and police, 
who brought him into the ___. When asked if patient was happy 
that he was found, he said "I don't know." When asked if patient 
would attempt suicide again, he says "I can't promise that I 
won't." Denies SI in this moment. 
  
Patient did not offer many protective factors. He feels that 
reading has been helpful, and kept him this long from attempting 
suicide. He denies loss of interest in reading, and loss of 
motivation. He has been able to keep up with his daily routine 
of walking, reading, and collecting recyclables for cash to get 
food stamps. Patient denies changes in appetite, weight, and 
concentration. He has decreased sleep, waking ___ times per 
night with nightmares. "
  
On interview at this time, patient reiterates above history, 
stating he has felt down and depressed for the past year or so 
in the setting of several psychosocial stressors. He says 
everything seemed to build up in the weeks prior to his suicide 
attempt, noting he was struggling with homelessness, facing 
obstacles getting an ID/SS card, and was being cast out by his 
family, namely his brother. He says he had been having suicidal 
thoughts prior to his attempt and due to the overwhelming 
stressors, he ultimately "felt ready to do it" on ___. He says 
he was found by a police officer, and willingly went to the 
hospital for treatment. He says he was and continues to be happy 
that his suicide attempt was not successful. He says he was 
"given another chance" and wants to be more optimistic.

Currently denies suicidal thoughts. Currently feels somewhat 
more hopeful that this admission may help him, though was 
feeling quite hopeless prior to admission. He says he often has 
trouble staying asleep. Denies changes in appetite. Good energy 
during the day. Denies AVH. Denies HI.
  
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Diagnoses: no formal diagnoses
-Hospitalizations: 2 brief ___ day) inpatient hospitalizations
by County Medical Dept in ___ ___ years ago, due to 
citizens reporting him to police while homeless. 
-Current treaters and treatment: Denies
-Medication and ECT trials: Denies. States he took 1 unknown
medication inpatient that made him feel like a "zombie"
-Self-injury: None prior. 
-Harm to others: Denies. Was attacked by group of men outside of
public library while homeless. 
-Access to weapons: Denies 
  
Past Medical History
-Prostatic cancer s/p resection and incomplete ___, ___ or ___ 
-Inguinal hernia; pending surgical consultation on ___
-Reports treatment for latent TB with INH and Vit B6 ___ years 
ago. 
  
Medications: 
-Denies any prior to admission medications
-Offered PRN Tylenol and senna during medical admission
   
Allergies: azithromycin - rash
  
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Father drinker; does not think alcoholic
-Denies family psychiatric history, substance use, suicide
attempts/completions.
  
Substance use history: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
-Alcohol: rare drinker, sips of beer; last drink 2 months ago
-Tobacco: ___ ppd since age ___ years old
-Methamphetamine: smoked & IV "slamming" - started ___ years ago,
last use ___ year ago
-IVDU: heroin, cocaine ("thought it was meth but it felt
different", unintentional) - tried
-Marijuana: tried
  
Forensic history: Per Dr. ___ (___), confirmed with
patient and updated as relevant:
-Arrests: Yes; arrested for a few days due to behavioral
disturbance while intoxicated
-Current status (pending charges, probation, parole) Denies
pending charges

 
Social History:
___
Family History:
-Father drinker; does not think alcoholic
-Denies family psychiatric history, substance use, suicide 
attempts/completions.

 
Physical Exam:
ON ADMISSION:

General: Thin appearing older gentleman in NAD. Appears stated 
age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear. 

Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Small ~1.5 inch cervical scar, well healed. Otherwise no 
obvious rashes, abrasions, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout.  
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition
 Wakefulness/alertness: Awake and alert
 Attention: MOYb with 0 errors
 Orientation: Oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): Not tested
 Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
 Fund of knowledge: Consistent with education; intact to last 4 
presidents
 Calculations: $1.75 = "7" quarters
 Abstraction: apple+orange="round" watch+ruler="measure" 
bike+train="wheels"
 Visuospatial: Not assessed
 Language: ___ speaker with accent, no paraphasic errors, 
appropriate to conversation

Mental Status:
 Appearance: Older man appearing his stated age, thin and 
weathered appearing; unkempt, with long uncombed white hair, 
facial hair; wearing hospital gown, in no apparent distress
 Behavior: Sitting up on side of bed, making appropriate eye 
contact, no psychomotor agitation or retardation
 Attitude: Cooperative, engaged, and friendly
 Mood: "Okay"
 Affect: Mood-congruent, appearing euthymic, full range, 
appropriate to situation
 Speech: Normal rate, volume, and tone; stutters at times
 Thought process: Linear, coherent, goal-oriented, no loose 
associations
 Thought Content:
   Safety: Denies SI/HI
   Delusions: No evidence of paranoia, etc. 
   Obsessions/Compulsions: No evidence based on current 
encounter
   Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
 Insight: Limited
 Judgment: Poor

ON DISCHARGE:
Appearance: Older man appearing his stated age, wearing casual 
home clothing, in no apparent distress
Behavior: making appropriate eye contact, no psychomotor 
agitation or retardation, appears comfortable
Attitude: Cooperative and friendly
Mood: "Good"
Affect: overall euthymic and appropriate, mood congruent 
Speech: Normal rate, volume, and tone
Thought process: Linear, coherent, goal-oriented, no loose
associations
Thought Content:
 Safety: Denies SI or urges to harm self, denies HI
 Delusions: No evidence of paranoia 
 Obsessions/Compulsions: No evidence based on current encounter
 Hallucinations: Denies AVH
Insight and judgment: fair

Ambulatory status: independent, no deficits 

 
Pertinent Results:
-___: ASA Etoh Acetaminophen Ticycl negative 
-___: urine tox screen negative
-___: TSH 1.2
-___ 07:40AM BLOOD WBC: 6.5 RBC: 4.90 Hgb: 15.3 Hct: 45.0 
MCV: 92 MCH: 31.2 MCHC: 34.0 RDW: 13.3 RDWSD: 45.___ 
-___ 07:40AM BLOOD Glucose: 96 UreaN: 14 Creat: 1.1 Na: 142 
K: 4.6 Cl: 106 HCO3: 26 AnGap: 10 
-___ 07:40AM BLOOD Calcium: 9.4 Phos: 3.7 Mg: 1.9 
-___ RPR negative
-___ 06:55AM BLOOD ALT-12 AST-18 AlkPhos-46 TotBili-0.6
-___ 07:02AM BLOOD HIV Ab-NEG
-___ 02:55PM URINE CT-NEG NG-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission on ___, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___. He then 
signed a conditional voluntary agreement on ___. He was also 
placed on 15 minute checks status on admission and remained on 
that level of observation throughout while being unit 
restricted. Patient had no behavioral or safety issues during 
this admission.
  
  
2. PSYCHIATRIC:
#)Major depressive disorder
Patient was brought in by police/ambulance after found to have 
cut his wrists in a reported suicide attempt, requiring 15 
stiches. He reported depressed mood and hopelessness for the 
previous year, which was worsening in the prior few weeks, in 
the setting of several psychosocial stressors, ultimately 
leading to suicide attempt by cutting wrists, bilaterally. He 
was found after his suicide attempt and elected to receive 
medical attention for his wounds. Diagnostically, presentation 
most consistent with depressive disorder. He stated he was 
ultimately happy to have survived his suicide attempt, and felt 
as though he was "given a second chance". During his 
hospitalization, he was offered individual and group therapy 
which he took advantage of. He was offered antidepressant 
medication, which he considered, though ultimately decided not 
to take, as he thought he did not need it. During his admission, 
he was observed to improve in regards to he reported mood and 
his observed affect. He was scheduled for appointments with PCP 
and psychiatry for follow up. On day of discharge, he was bright 
in his affect and future oriented. 
  
  
3 MEDICAL
#) Asymptomatic Bradycardia: noted to have heart rates high 
___ on presentation. His EKG demonstrated sinus bradycardia 
without acute ischemic changes. Patient admitted to medicine 
service for monitoring and further work up which was unrevealing 
and given his stable blood pressures and lack of symptoms, he 
was felt stable for transfer to psych.

#) Chronic Cough: report of ongoing chronic productive cough.  
CXR ___ with normal heart, lungs, hila, mediastinum, and 
pleural surfaces. No evidence of cardiac decompensation, 
intrathoracic malignancy, or active infection during medicine 
admission. Beta glucan neg-- less likely fungal. Medicine 
recommended PCP follow up after discharge. Appointment 
scheduled. 
 - post discharge follow up items: TB quantiferon (pending)

#) Bilateral wrist lacerations s/p repair in ___: ___ Prolene 
sutures placed on right; ___ Prolene sutures placed on left. 
Per patient, ___ instructed suture removal in ___. Per surgery 
curbside consult, recommendation is PCP ___ in 3 weeks and 
wounds can be open to air in interim. 
  
# Prostate cancer - treated years ago, patient never follow up 
with PCP
  
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy
opportunities offered by the unit. The patient often attended 
these groups that
focused on teaching patients various coping skills. The patient 
was pleasant on approach in the milieu and was observed to be 
friendly while interacting with peers and staff members. 
  
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of,
and possible side effects and risks of starting sertraline and 
hydroxyzine PRN medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand. He was prescribed both medications during this 
hospitalization, but refused sertraline, ultimately deciding he 
did not feel he needed medication. 
  
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of
harm to himself based upon reported suicide attempt by cutting 
wrists. His static factors noted at that time included elderly 
age, Caucasian ethnicity, LGBT identity, and personal history of 
substance use. Dynamic factors included homelessness, financial 
hardship, estrangement from family, poor social support, no 
outpatient mental health treaters, hopelessness. Modifiable risk 
factors were addressed during this admission- patient was 
provided with guidance in regards to obtaining identification 
upon discharge. He was provided with therapy and subsequently 
felt more hopeful and optimistic. Appointments were made for him 
with PCP and psychiatry at ___, close to his residence of 
choice.  Finally, the patient is being discharged with 
protective factors-- future-oriented viewpoint, reality testing 
ability, and lack of suicidal ideation.

The overall prognosis for this patient is fair.
 
Medications on Admission:
Patient was not taking any prescribed or over the counter 
medications prior to his medical admission.

During his medication admission, he was offered:
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour 1 daily Disp #*10 Patch Refills:*0 
2.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Major depressive disorder 

 
Discharge Condition:
Appearance: Older man appearing his stated age, wearing casual 
home clothing, in no apparent distress
Behavior: making appropriate eye contact, no psychomotor 
agitation or retardation, appears comfortable
Attitude: Cooperative and friendly
Mood: 'Good'
Affect: overall euthymic and appropriate, mood congruent 
Speech: Normal rate, volume, and tone
Thought process: Linear, coherent, goal-oriented, no loose
associations
Thought Content:
   Safety: Denies SI or urges to harm self, denies HI
   Delusions: No evidence of paranoia 
   Obsessions/Compulsions: No evidence based on current 
encounter
   Hallucinations: Denies AVH
Insight and judgment: fair

Ambulatory status: independent, no deficits 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___